US08071768B2
b. 4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
The title compound was prepared from 4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester, prepared in the previous step, and (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride, prepared as described in Example 66a, using essentially the protocol given for Example 170c. 1H-NMR (400 MHz, CDCl3) δ 9.06 (s, 1H), 7.34 (s, 1H), 7.28 (m, 2H), 7.25 (s, 1H), 6.88 (m, 2H), 6.34 (s, 1H), 4.27 (m, 4H), 4.05 (s, 3H), 3.86 (m, 4H), 3.59 (tt, 1H), 3.16 (td, 2H), 3.11 (m, 4H), 2.57 (m, 2H), 2.65-2.34 (br, 8H), 2.30 (s, 3H), 2.21-2.08 (m, 4H), 2.03-1.95 (m, 2H). LC/MS (ESI): calcd mass 603.4, found 604.4 (MH)+.

reactant | 4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C27H41N5O4
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
product | 4-{6-Methoxy-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C33H45N7O4
